US05401772
4-Chloro-3,5-dimethylnitrobenzene (2.12 g), 1.9 g of 3-isopropyl-4-methoxyphenol, and 1.74 g of potassium carbonate are heated 18 hrs at 125° in 25 ml dimethylsulfoxide. The mixture is poured into ethyl acetate and extracted once with water and five times with brine. The ethyl acetate is dried, filtered, and stripped to yield an oil which is chromatographed on silica gel with 97:3 hexane:ethyl acetate to afford 3,5-dimethyl-4-(3'-isopropyl-4'-methoxyphenoxy)-nitro benzene NMR (CDCl3): δ1.1 (6H,d), 2.2 (6H,s), 3.3 (1H,m), 3.7 (3H, s) 6.3 (1H,d of d), 6.6 (1H,d), 6.7 (1H, d), 8.0 (2H, s).

reactant | 4-Chloro-3,5-dimethylnitrobenzene | 2.12 g | ClC1=C(C=C(C=C1C)[N+](=O)[O-])C | C8H8ClNO2
reactant | 3-isopropyl-4-methoxyphenol | 1.9 g | C(C)(C)C=1C=C(C=CC1OC)O | C10H14O2
reactant | potassium carbonate | 1.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
product | 3,5-dimethyl-4-(3'-isopropyl-4'-methoxyphenoxy)-nitro benzene | CC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C)[N+](=O)[O-] | C18H21NO4
